US09283229B2
Step 1: Synthesis of 4-formyl-2-nitrobenzonitrile
A mixture of 4-bromo-3-nitrobenzaldehyde (1 g, 4.35 mmol) in dimethylformamide (10 mL) was added cuprous cyanide (584.8 mg, 6.53 mmol). The resultant solution was stirred at 160° C. for 5 hours. After cooling, a standard aqueous/EtOAc workup was followed. Purified by silica gel column chromatography to give product (430 mg, yield 56.1%).

reactant | 4-bromo-3-nitrobenzaldehyde | 4.35 mmol, 1 g | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-formyl-2-nitrobenzonitrile | 430 mg, yield 56.1% | C(=O)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H4N2O3
